US08106043B2
tert-Butyl 2-(methyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)amino)acetate:
A solution of N-methyl-2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine (0.95 g, 3.75 mmol), diisopropylethyl amine (1.960 mL, 11.25 mmol), and tert-butyl bromoacetate (0.61 mL, 4.13 mmol) in DMF (20 mL) was heated at 55° C. for 17 hours (overnight). The yellow solution was diluted with brine (40 mL) and extracted with EtOAc (100 mL). The organic extract was separated and rinsed with brine (20 mL). The organic layer was dried (Na2SO4), filtered, and concentrated to give a yellow residue. This residue was subjected to flash chromatography on silica gel using 2.5:97.5 MeOH:CH2Cl2 to give a yellow brown residue. Two fractions were collected, with the latter containing a non-polar yellow spot (950 mg, 68.9%). 1H-NMR (CDCl3) δ 7.96 (d, J=2.7 Hz, 1H), 7.88 (d, J=2.7, 9.3 Hz, 1H), 6.65 (d, J=9.3 Hz, 1H), 3.88-3.83 (m, 2H), 3.55 (t, J=7.2 Hz, 2H), 3.20 (s, 2H), 3.02-2.99 (m, 2H), 2.76 (t, J=7.2 Hz, 2H), 2.44 (s, 3H), 1.46 (s, 9H); ESI-MS (m/z, %): 368 (MH+, 20), 312 (100).

reactant | N-methyl-2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine | 3.75 mmol, 0.95 g | CNCCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C11H15N3O2S
reactant | diisopropylethyl amine | 11.25 mmol, 1.960 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl bromoacetate | 4.13 mmol, 0.61 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | MeOH | CO | CH4O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | 40 mL | [Cl-].[Na+].O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(methyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)amino)acetate | CN(CC(=O)OC(C)(C)C)CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O4S
